US04801593
Preparation of 1,2,3,4-tetrahydro-2-methyl-2-phenylisoquinolinium iodide
2-phenyl-1,2,3,4-tetrahydroisoquinoline (1.01 g,) was dissolved in acetone (10 ml) and methyl iodide (0.794 g,) was added. The clear solution stood at -20° for 48 hr when t.l.c. indicated the presence of unchanged starting material. A further quantity of methyl iodide (0.3 ml) was added and the reaction mixture was heated at reflux for 3 hrs. The solvent was removed in vacuo and the residue triturated with ether. The resulting solid 1,2,3,4-tetrahydro-2-methyl-2-phenylisoquinolinium iodide was filtered off and dried (1 g). m.pt. softens 190°, melts 195° (decomp.)

reactant | 2-phenyl-1,2,3,4-tetrahydroisoquinoline | 1.01 g | C1(=CC=CC=C1)N1CC2=CC=CC=C2CC1 | C15H15N
reactant | methyl iodide | 0.794 g | CI | CH3I
reactant | methyl iodide | 0.3 ml | CI | CH3I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1,2,3,4-tetrahydro-2-methyl-2-phenylisoquinolinium iodide | [I-].C[N+]1(CC2=CC=CC=C2CC1)C1=CC=CC=C1 | InChI=1S/C16H18N.HI/c1-17(16-9-3-2-4-10-16)12-11-14-7-5-6-8-15(14)13-17;/h2-10H,11-13H2,1H3;1H/q+1;/p-1
